US05939439
Step 1: 4-Imidazol-1-ylmethyl-benzonitrile
To imidazole (7 gm, 103 mmol) suspended in degassed DMF (250 mL) under argon was added NaH 60% dispersion in mineral oil (4.53 gm, 113 mmol) with stirring for 10 minutes. A solution of 4-bromomethyl benzonitrile in 50 mL of DMF was added and the reaction was stirred for 16 hrs. The reaction was quenched with the addition of 20 mL of water and the solvent was removed in vacuo. The residue was suspended in methylene chloride (500 mL) and extracted 3 times with water (200 mL) and the organic layer was dried over magnesium sulfate, filtered, and the solvent was removed in vacuo. The residue was chromatographed on silica gel with methylene chloride to remove the oil followed by 95:5 methylene chloride: methanol. The resulting fractions where reduced to a small volume in vacuo and the product spontaneously crystallized. The crystals were filtered to give the desired product.

reactant | imidazole | 103 mmol, 7 gm | N1C=NC=C1 | C3H4N2
reactant | NaH | [H-].[Na+]
reactant | 4-bromomethyl benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-Imidazol-1-ylmethyl-benzonitrile | N1(C=NC=C1)CC1=CC=C(C#N)C=C1 | C11H9N3
